US06218408B1
A solution of a tert-butyl N-[4-(isopropylamino)-cyclohexyl]methylcarbamate (7.89 mmol, 1 equivalent) in 5 ml of THF was added dropwise to a solution of 1H-benzotriazole-1-carboxaldehyde (8.68 mmol, 1.2 equivalents) in 10 ml of THF at room temperature. The reaction mixture was stirred overnight and heated at reflux temperature for two hours. 1H-benzotriazole-1-carboxaldehyde (additional 1 equivalent) was added to the reaction mixture and stirred overnight. The solvent was removed and dichloromethane was added to the residue. The organic phase was washed with 2N NaOH solution, saturated with NaCl solution, dried over Na2SO4, the solvent removed, and the residue chromatographed to give tert-butyl N-[4-(isopropylformylamino)cyclohexyl]-methyl-carbamate: 100% yield, 299 (ESMS, MH+); 1H NMR (CD3OD) δ 8.22 & 8.18 (two s, 1H), 4.63 (broad, 1H), 4.30 & 3.60 (two m, 1H), 3.76 (m, 1H), 2.99 (m, 2H), 1.44 (s, 9H), 1.27 (d, 3H, J=6.5 Hz), 1.21 (d, 3H, J=6.5 Hz), 1.91-0.82 (m, 9H).

reactant | tert-butyl N-[4-(isopropylamino)-cyclohexyl]methylcarbamate | 7.89 mmol, 1 equivalent | C(C)(C)NC1CCC(CC1)CNC(OC(C)(C)C)=O | C15H30N2O2
reactant | 1H-benzotriazole-1-carboxaldehyde | 8.68 mmol, 1.2 equivalents | N1(N=NC2=C1C=CC=C2)C=O | C7H5N3O
reactant | 1H-benzotriazole-1-carboxaldehyde | 1 equivalent | N1(N=NC2=C1C=CC=C2)C=O | C7H5N3O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl N-[4-(isopropylformylamino)cyclohexyl]-methyl-carbamate | 100% yield | C(C)(C)C(=O)NC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C16H30N2O3
